US08957203B2
Preparation of 4-(2,2-difluoroethoxy)-1-fluoroisoquinoline
To a solution of 1-chloro-4-(2,2-difluoroethoxy)isoquinoline (630 mg, 2.59 mmol) in DMSO (10 mL) was added CsF (786 mg, 5.17 mmol) and heated to 140° C. for 2 hrs. LC/MS showed the desired product. The reaction was diluted with Ethylacteate and washed with water, and brine. The organic phase was collected, dried over sodium sulfate, and concentrated under vacuum to give the crude product which was purified by silica gel chromatography using a gradient of 5-50% EtOAc/Hexanes. The product fractions were collected and the solvent removed under vacuum to give it the desired product 4-(2,2-difluoroethoxy)-1-fluoroisoquinoline (310 mg, 52.8% yield). MS: MS m/z 228.1 (M++1).

reactant | 1-chloro-4-(2,2-difluoroethoxy)isoquinoline | 2.59 mmol, 630 mg | ClC1=NC=C(C2=CC=CC=C12)OCC(F)F | C11H8ClF2NO
reactant | CsF | 5.17 mmol, 786 mg | [F-].[Cs+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 4-(2,2-difluoroethoxy)-1-fluoroisoquinoline | FC(COC1=CN=C(C2=CC=CC=C12)F)F | C11H8F3NO
